US07122545B2
To a suspension of 0.037 g 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine hydrochloride in 3 ml tetrahydrofurane were added at 0–4° C. 0.06 ml N-ethyldiisopropylamine and 0.007 ml acetylchloride. The mixture was refluxed for 17 hours, silicagel was added and the solvent was distilled off. The residue was transferred to a column prefilled with silicagel and was chromatographed with dichloromethane/methanol 96:4 to yield 0.028 g (74%) 1-[2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepin-6-yl]-ethanone as yellow solid; M.p.: 195–197° C.; MS (ISP): m/e=428 (M+H+).

reactant | 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine hydrochloride | 0.037 g | Cl.COC1=CC=C(C2=C1N=C(S2)C2=NC1=C(CCNCC1)N2)N2CCOCC2
reactant | N-ethyldiisopropylamine | 0.06 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | acetylchloride | 0.007 ml | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofurane | 3 ml | O1CCCC1 | C4H8O
product | 1-[2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepin-6-yl]-ethanone | 0.028 g, 74% | COC1=CC=C(C2=C1N=C(S2)C2=NC1=C(CCN(CC1)C(C)=O)N2)N2CCOCC2 | C21H25N5O3S
